US06090839
EXAMPLE 8 2-(2-(3-Phenyl-7-propylbenz[4,51 isoxazol-6-yloxy)ethyl)benzofuran -5-acetic acid
Using the procedure from Example 1, steps F and G, the title compound was prepared from methyl 2-(2-hydroxyethyl)benzofuran-5-acetate and 3-phenyl-7-propyl-6-hydroxybenz[4,5]isoxazole as a colorless oil.

reactant | methyl 2-(2-hydroxyethyl)benzofuran-5-acetate | OCCC=1OC2=C(C1)C=C(C=C2)CC(=O)OC | C13H14O4
reactant | 3-phenyl-7-propyl-6-hydroxybenz[4,5]isoxazole | C1(=CC=CC=C1)C1=NOC2=C1C=CC(=C2CCC)O | C16H15NO2
product | 2-(2-(3-Phenyl-7-propylbenz[4,51 isoxazol-6-yloxy)ethyl)benzofuran -5-acetic acid | C1(=CC=CC=C1)C1=NOC2=C1C=CC(=C2CCC)OCCC=2OC1=C(C2)C=C(C=C1)CC(=O)O | C28H25NO5
